US06040472
Substantially the same procedure as in Example 7 was repeated, except that the activated catalyst prepared in Example 4 was used, that benzaldehyde was used instead of the methacrolein, and that ethanol was used instead of the methanol, to thereby effect a reaction for producing methyl benzoate. Analysis was made with respect to the reaction mixture which was withdrawn from the outlet of the reactor 10 hours after the start of the reaction. As a result, it was found that the conversion of benzaldehyde was 76.2%, and the selectivity for methyl benzoate was 93.2%.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethanol | C(C)O | C2H6O
product | methyl benzoate | C(C1=CC=CC=C1)(=O)OC | C8H8O2
